US09371282B2
n-Butyllithium (2.5 M in hexanes, 29 mL, 72 mmol) is added dropwise to N-tert-butyl-4-chloropyridine-2-carboxamide (7.00 g, 32.9 mmol) in THF (70 mL) at −78° C. After 1 h at −78° C. iodomethane (6.8 mL, 109 mmol) is added and stirring is continued for 1 h. Saturated NH4Cl (10 mL) is added and the organic layer is separated, dried and evaporated under reduce pressure to give a residue that is purified by flash chromatography (eluent 0-20% EtOAc/cyclohexane) to furnish N-tert-butyl-4-chloro-3-methyl-pyridine-2-carboxamide (5.7 g, 76%).

reactant | n-Butyllithium | 72 mmol, 2.5 M, 29 mL | C(CCC)[Li]
reactant | N-tert-butyl-4-chloropyridine-2-carboxamide | 32.9 mmol, 7.00 g | C(C)(C)(C)NC(=O)C1=NC=CC(=C1)Cl | C10H13ClN2O
reactant | iodomethane | 109 mmol, 6.8 mL | IC | CH3I
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | N-tert-butyl-4-chloro-3-methyl-pyridine-2-carboxamide | 5.7 g, 76% | C(C)(C)(C)NC(=O)C1=NC=CC(=C1C)Cl | C11H15ClN2O
